US06355680B1
In the manner described in example 3, 2-bromophenylacetic acid is condensed with 3-methoxy-5-(trifluoromethyl)aniline to yield 2-[(3-methoxy-5-(trifluoromethyl)phenyl)amino]phenylacetic acid.

reactant | 2-bromophenylacetic acid | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | 3-methoxy-5-(trifluoromethyl)aniline | COC=1C=C(N)C=C(C1)C(F)(F)F | C8H8F3NO
product | 2-[(3-methoxy-5-(trifluoromethyl)phenyl)amino]phenylacetic acid | COC=1C=C(C=C(C1)C(F)(F)F)NC1=C(C=CC=C1)CC(=O)O | C16H14F3NO3
